US04956359
1-(Diphenylmethyl)-3-(3-methylphenoxy)azetidine
A stirred mixture of 48 g (0.2 mole) of 1-diphenylmethyl-3-azetidinol and 22 g (0.22 mole) of triethylamine in 800 ml of toluene under nitrogen was cooled in a water bath while 27.5 g (0.22 mole) of methanesulfonyl chloride was added dropwise. After stirring for 20 hr, the reaction mixture was treated with 200 ml of water to dissolve the triethylamine hydrochloride. The aqueous phase was separated and the toluene phase was washed with 2×100 ml water. The toluene solution was added to a mixture of 22.8 g (0.2 mole) of 3-methylphenol (95%), 24 g (0.6 mole) of sodium hydroxide and 100 mg of tetrabutylammonium bromide in 100 ml of water and the mixture was heated at reflux and stirred vigorously for 42 hr.

reactant | 1-diphenylmethyl-3-azetidinol | 0.2 mole, 48 g | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | triethylamine | 0.22 mole, 22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mole, 27.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | 3-methylphenol | 0.2 mole, 22.8 g | CC=1C=C(C=CC1)O | C7H8O
reactant | sodium hydroxide | 0.6 mole, 24 g | [OH-].[Na+]
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 100 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-(Diphenylmethyl)-3-(3-methylphenoxy)azetidine | C1(=CC=CC=C1)C(N1CC(C1)OC1=CC(=CC=C1)C)C1=CC=CC=C1 | C23H23NO
